US08791272B2
4-Amino-2-methyl-benzoic acid
To a stirred solution of 4-acetylamino-2-methyl-benzoic acid (25.5 g) in methanol (250 ml) was added conc. H2SO4 (19 ml) dropwise and the reaction heated to reflux. After 2.5 h, the reaction was cooled to rt. NaHCO3 (aq) was added until alkaline and the obtained mixture was extracted with EtOAc. The organic extracts were washed with NaOH(aq) (2 M) 3 times, then dried and concentrated affording 17.6 g of the title compound.

reactant | 4-acetylamino-2-methyl-benzoic acid | 25.5 g | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1)C | C10H11NO3
reactant | H2SO4 | 19 ml | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 4-Amino-2-methyl-benzoic acid | 17.6 g | NC1=CC(=C(C(=O)O)C=C1)C | C8H9NO2
